US08008525B2
A mixture of ethyl 3-fluoro-4-[(2,4,6-trimethylphenyl)methoxy]benzenepropanoate (363 mg, 1.1 mmol), a 2 N aqueous sodium hydroxide solution (1.5 mL) and ethanol (5 mL) was stirred at 60° C. for 1.5 hours. The reaction solution was ice-cooled and acidified with 1 N hydrochloric acid, and then the solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride, and the mixture was washed with water and saturated brine and dried over magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the resulting crystals were recrystallized from ethyl acetate/hexane (190 mg, yield 57%).

reactant | ethyl 3-fluoro-4-[(2,4,6-trimethylphenyl)methoxy]benzenepropanoate | 1.1 mmol, 363 mg | FC=1C=C(C=CC1OCC1=C(C=C(C=C1C)C)C)CCC(=O)OCC | C21H25FO3
reactant | sodium hydroxide | 2 N, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl acetate hexane | 190 mg, yield 57% | C(C)(=O)OCC.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
